US04412077
Kato et al. [J. Heterocyclic Chem. 18, 603-606 (1981)] show, inter alia, the dehydrogenation of 5-acetyl-3,4-dihydro-6-methyl-2(1H)-pyridinone by heating it with palladium black to produce 5-acetyl-6-methyl-2(1H)-pyridinone, which in turn is reacted with phosphorus oxychloride (phosphoryl chloride) to produce a mixture of 6-chloro-3-ethynyl-2-methylpyridine and 6-chloro-3-(1-chlorovinyl)-2-methylpyridine.

reactant | 5-acetyl-3,4-dihydro-6-methyl-2(1H)-pyridinone | C(C)(=O)C=1CCC(NC1C)=O | C8H11NO2
catalyst | palladium black | [Pd] | Pd
product | 5-acetyl-6-methyl-2(1H)-pyridinone | C(C)(=O)C=1C=CC(NC1C)=O | C8H9NO2
